US08278482B2
1-(3-(Benzyloxycarbonylamino)-3-methylbutyl)-1,4,4-trimethylpiperidinium iodide
Benzyl 4-(4,4-dimethylpiperidin-1-yl)-2-methylbutan-2-ylcarbamate (2.25 g, 6.76 mmol) was placed into a 15 mL pressure tube. Absolute ethanol (2 mL) and Methyl iodide (5.0 mL, 11.8 equiv, 80.1 mmol) was added in one portion. A stir bar was added and the pressure tube sealed. The reaction was left to stir at 50° C. for 16 h. The solution was concentrated to a pale yellow solid. The crude solid was dissolved into isopropanol (5 mL) and ethyl acetate (25 mL) and the solution cooled in an ice bath to give a gel. The product was filtered, washed with fresh ethyl acetate and dried under high vacuum to give a white solid (2.06 g, 64.0%). 1H NMR (D2O, 400 MHz): δ 0.98 (s, 3H), 1.03 (s, 3H), 1.30 (s, 6H), 1.50-1.70 (m, 4 H), 2.10-2.18 (m, 2H), 2.85 (s, 3H), 3.15-3.28 (m, 6 H), 5.09 (s, 2H), 7.38-7.50 (m, 5H). LRMS (ESI+) for C21H35N2O2+ (347.3); Found: 347 (M+).

reactant | Benzyl 4-(4,4-dimethylpiperidin-1-yl)-2-methylbutan-2-ylcarbamate | 6.76 mmol, 2.25 g | CC1(CCN(CC1)CCC(C)(C)NC(OCC1=CC=CC=C1)=O)C | C20H32N2O2
reactant | Methyl iodide | 80.1 mmol, 5.0 mL, 11.8 equiv | CI | CH3I
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(3-(Benzyloxycarbonylamino)-3-methylbutyl)-1,4,4-trimethylpiperidinium iodide | 2.06 g, 64.0% | [I-].C(C1=CC=CC=C1)OC(=O)NC(CC[N+]1(CCC(CC1)(C)C)C)(C)C | InChI=1S/C21H34N2O2.HI/c1-20(2)11-14-23(5,15-12-20)16-13-21(3,4)22-19(24)25-17-18-9-7-6-8-10-18;/h6-10H,11-17H2,1-5H3;1H
